US05036067
Step 1 Methyl 2-acetyl-5,5-dioxo-10,11-dihydrodibenzo[b,f]thiepin-7-carboxylate
Following the procedure described in Example 10, Step 1, but substituting 2-acetyl-5,5-dioxo-10,11-dihydrodibenzo[b,f]thiepin-7-carboxylic acid (U.S. Pat. No. 4,536,507 (1985)) for 2-acetyl-10,11-dihydrodibenzo[b,f]thiepin-7-carboxylic acid as starting material, the title product was obtained as a solid.

reactant | 2-acetyl-5,5-dioxo-10,11-dihydrodibenzo[b,f]thiepin-7-carboxylic acid | C(C)(=O)C1=CC2=C(S(C3=C(CC2)C=CC(=C3)C(=O)O)(=O)=O)C=C1 | C17H14O5S
reactant | 2-acetyl-10,11-dihydrodibenzo[b,f]thiepin-7-carboxylic acid | C(C)(=O)C1=CC2=C(SC3=C(CC2)C=CC(=C3)C(=O)O)C=C1 | C17H14O3S
product | Methyl 2-acetyl-5,5-dioxo-10,11-dihydrodibenzo[b,f]thiepin-7-carboxylate | C(C)(=O)C1=CC2=C(S(C3=C(CC2)C=CC(=C3)C(=O)OC)(=O)=O)C=C1 | C18H16O5S
